US06180659B2
Triphenylphosphine ethylbromide (4.1 g) was added to 2N sodium hydroxide/dimethyl sulfoxide solution (11 ml), prior to stirring at 50° C. for 30 minutes. To the mixture was added 4,6-dimethoxy-2-hydroxybenzaldehyde (1 g), for stirring at 50° C. overnight. The resulting solution was partitioned between ethyl acetate and dilute hydrochloric acid, and the resulting ethyl acetate phase was washed in water and subsequently in an aqueous saturated sodium chloride solution and dried over anhydrous magnesium sulfate, to distill off the solvents under reduced pressure. The residue was purified by silica gel column chromatography (developing solvent:hexane:ethyl acetate=3:1), followed by addition of a catalytic amount of platinum dioxide for hydrogenation, to recover 3,5-dimethoxy-2-propylphenol (0.5 g; yield of 46%). By 2H-NMR (90 HMz, CDCl3), the compound has the peaks shown below.

reactant | Triphenylphosphine ethylbromide | 4.1 g | C(C)Br.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium hydroxide dimethyl sulfoxide | 2N, 11 ml | [OH-].[Na+].CS(=O)C
reactant | 4,6-dimethoxy-2-hydroxybenzaldehyde | 1 g | COC1=CC(=C(C=O)C(=C1)OC)O | C9H10O4
product | 3,5-dimethoxy-2-propylphenol | 0.5 g, yield of 46% | COC=1C(=C(C=C(C1)OC)O)CCC | C11H16O3
